US08222416B2
A mixture of {4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-dimethyl-amine (45 mg, 0.13 mmol) and 10% palladium on activated carbon (15 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) for 5 h. The mixture was cooled to room temperature, the catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded {4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-dimethyl-amine (23 mg, 51%): LC/MS m/e calcd for C22H27N3 [M+H]+ 334.48, observed 334.2; 1H NMR (400 MHz, CDCl3) δ ppm 8.13 (br. s., 1H), 7.91 (br. s., 1H), 7.11-7.20 (m, 2H), 7.01-7.11 (m, 1H), 6.68-6.77 (m, 2H), 6.33-6.38 (m, 1H), 4.03-4.13 (m, 1H), 2.91-2.97 (m, 6H), 2.07-2.20 (m, 2H), 1.70-1.87 (m, 3H), 1.62 (br. s., 2H), 1.48 (br. s., 2H), 1.13-1.28 (m, 2H).

reactant | {4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-dimethyl-amine | 0.13 mmol, 45 mg | C1(CCCC1)C=C(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)N(C)C | C22H25N3
catalyst | palladium on activated carbon | 15 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | {4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-dimethyl-amine | 23 mg, 51% | C1(CCCC1)CC(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)N(C)C | C22H27N3
